US07696223B2
b) 2-(tert-Butoxycarbonyl-phenyl-amino)-4-methyl-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-methyl-2-phenylamino-thiazole-5-carboxylic acid ethyl ester (2.00 g, 7.65 mmol), di-tert-butyl dicarbonate (1.84 g, 8.41 mmol), 4-dimethylaminopyridine (47 mg, 0.38 mmol) and triethylamine (1.6 mL, 11.5 mmol) in dichloromethane (30 mL) was stirred at room temperature for 2 h before it was partitioned between dichloromethane and water, the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow solid (2.64 g): MS: (+) m/z 263.1 (M+1-Boc).

reactant | 4-methyl-2-phenylamino-thiazole-5-carboxylic acid ethyl ester | 7.65 mmol, 2.00 g | C(C)OC(=O)C1=C(N=C(S1)NC1=CC=CC=C1)C | C13H14N2O2S
reactant | di-tert-butyl dicarbonate | 8.41 mmol, 1.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 11.5 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.38 mmol, 47 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(tert-Butoxycarbonyl-phenyl-amino)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 2.64 g | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C18H22N2O4S
